US05198449
N-(3,4-Difluorophenyl)-α-(4-fluorophenyl)-1-[3-(2-naphthalenyloxy)propyl]-4-piperidinemethanamine dihydrochloride
A mixture of 4-[[(3,4-difluorophenyl)amino](4-fluorophenyl)methyl]piperidine (4.70 g, 0.0147 mol), 2-(3-chloropropyloxy)naphthalene) (3.23 g, 0.0147 mol), and sodium bicarbonate (5.53 g, 0.0658 mol) in 350 mL of 1-butanol containing sodium iodide was heated at reflux for 24 h. The butanol was removed by rotary evaporator and the residue partitioned between chloroform and water. The chloroform layer was washed with 5% sodium hydroxide, dried (Na2SO4) and filtered. Chloroform was removed to give a brown oil. This oil was dissolved in methylene chloride and placed on a 300 g silica gel column for flash chromatography. Elution was accomplshed using methylene chloride, 1% methanol-methylene chloride, and 2% methanol-methylene chloride. Fractions of similar purity were combined and solvents removed to give a dark brown oil. This material was converted to the HCl salt and recrystallized from methanol-diethyl ether. A white solid was isolated and dried 16 h in vacuo at 80° C. This procedure produced 5.08 g (59.8%) of white crystalline solid, mp 225°-226° C.

reactant | 4-[[(3,4-difluorophenyl)amino](4-fluorophenyl)methyl]piperidine | 0.0147 mol, 4.70 g | FC=1C=C(C=CC1F)NC(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F3N2
reactant | 2-(3-chloropropyloxy)naphthalene | ClCCCOC1=CC2=CC=CC=C2C=C1 | C13H13ClO
reactant | sodium bicarbonate | 0.0658 mol, 5.53 g | C([O-])(O)=O.[Na+]
reactant | sodium iodide | [I-].[Na+]
reactant | HCl | Cl | ClH
solvent | 1-butanol | 350 mL | C(CCC)O | C4H10O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(3,4-Difluorophenyl)-α-(4-fluorophenyl)-1-[3-(2-naphthalenyloxy)propyl]-4-piperidinemethanamine dihydrochloride | 5.08 g, 59.8% | Cl.Cl.FC=1C=C(C=CC1F)NC(C1CCN(CC1)CCCOC1=CC2=CC=CC=C2C=C1)C1=CC=C(C=C1)F | InChI=1S/C31H31F3N2O.2ClH/c32-26-9-6-23(7-10-26)31(35-27-11-13-29(33)30(34)21-27)24-14-17-36(18-15-24)16-3-19-37-28-12-8-22-4-1-2-5-25(22)20-28;;/h1-2,4-13,20-21,24,31,35H,3,14-19H2;2*1H
